US06313299B1
1-Cyclopropyl-6-fluoro-7-[8-(methoxyimino)-2-methyl-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid
300 mg of 1-Cyclopropyl-6-fluoro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid was added to 10 ml of ethanol, and thereto 0.2 ml of acetic acid was dropped and 42 mg of p-formaldehyde was added. The mixture was stirred at room temperature for 30 minutes, and thereto 85 mg of sodium cyanoborohydride was added. It was stirred at room temperature for 2 hours. The resulting precipitate was filtered and dried to give 260 mg of the titled compound(yield: 83.7%).

reactant | 1-Cyclopropyl-6-fluoro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 300 mg | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC2(CNC2)C(C1)=NOC)F)=O)C(=O)O | C19H20FN5O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 85 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl-6-fluoro-7-[8-(methoxyimino)-2-methyl-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 260 mg, yield: 83.7% | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC2(CN(C2)C)C(C1)=NOC)F)=O)C(=O)O | C20H22FN5O4
